US08445499B2
Step 2: tert-butyl 1′-[2-(trifluoromethyl)pyrimidin-4-yl]-4,4′-bipiperidine-1-carboxylate
The tert-butyl 4,4′-bipiperidine-1-carboxylate (28.5 mg, 0.11 mmol) and cesium carbonate (106 mg, 0.32 mmol) were stirred in NMP (0.5 ml) and the 4-bromo-2-(trifluoromethyl)pyrimidine (12 mg, 0.053 mmol) was added. The mixture was heated at 70° C. for 2 h. The reaction was cooled down to r.t. and diluted with ethyl acetate (5 mL) and was washed with water 2 mL (×1) and brine 2 mL (×1). The organic phase was dried over magnesium sulfate, filtered, and concentrated on rotavapor. The crude material was purified by preparative TLC with 30% acetone: hexane to yield the titled compound.

reactant | tert-butyl 4,4′-bipiperidine-1-carboxylate | 0.11 mmol, 28.5 mg | N1(CCC(CC1)C1CCNCC1)C(=O)OC(C)(C)C | C15H28N2O2
reactant | cesium carbonate | 0.32 mmol, 106 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-bromo-2-(trifluoromethyl)pyrimidine | 0.053 mmol, 12 mg | BrC1=NC(=NC=C1)C(F)(F)F | C5H2BrF3N2
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 1′-[2-(trifluoromethyl)pyrimidin-4-yl]-4,4′-bipiperidine-1-carboxylate | FC(C1=NC=CC(=N1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C20H29F3N4O2
